US09416135B2
To a stirred solution of N-(4-(hydroxymethyl)-2-iodo-5-(methylthio)phenyl)methanesulfonamide (6.4 g, 17.2 mmol) and imidazole (1.76 g, 25.8 mmol) in CH2Cl2 (100 mL) and DMF (50 mL) at 0° C. was added tert-butyldiphenylsilyl chloride (5.8 mL, 22.4 mmol). The mixture was allowed to stir at rt overnight. The mixture was diluted with CH2Cl2 (100 mL), washed with 1N HCl solution, sat. aq. NaHCO3 and brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo to afford N-(4-(((tert-butyldiphenylsilyl)oxy)methyl)-2-iodo-5-(methylthio)phenyl)methanesulfonamide. It was used for next step without further purification.

reactant | N-(4-(hydroxymethyl)-2-iodo-5-(methylthio)phenyl)methanesulfonamide | 17.2 mmol, 6.4 g | OCC1=CC(=C(C=C1SC)NS(=O)(=O)C)I | C9H12INO3S2
reactant | imidazole | 25.8 mmol, 1.76 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 22.4 mmol, 5.8 mL | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-(4-(((tert-butyldiphenylsilyl)oxy)methyl)-2-iodo-5-(methylthio)phenyl)methanesulfonamide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC(=C(C=C1SC)NS(=O)(=O)C)I | C25H30INO3S2Si
